US09079878B2
2-Bromo-1-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethanone
To a solution of 1-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethanone (Preparation 41, 0.6 g, 2.44 mmol) in THF (20 mL) at 0° C. was added trimethylphenylammonium tribromide (0.962 g, 2.56 mmol). After stirring for 2 hours at 0° C. the reaction was quenched with a saturated aqueous solution of sodium hydrogen carbonate. The reaction was extracted with ethyl acetate and dried over MgSO4 before concentrating in vacuo to afford the title compound that was used without further purification.

reactant | 1-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethanone | 2.44 mmol, 0.6 g | FS(C1=CC=C(C=C1)C(C)=O)(F)(F)(F)F | C8H7F5OS
reactant | trimethylphenylammonium tribromide | 2.56 mmol, 0.962 g | [Br-].[Br-].[Br-].C[N+](C1=CC=CC=C1)(C)C.C[N+](C)(C)C1=CC=CC=C1.C[N+](C)(C)C1=CC=CC=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Bromo-1-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethanone | BrCC(=O)C1=CC=C(C=C1)S(F)(F)(F)(F)F | C8H6BrF5OS
